US04661501
To 50 ml of ethanol were added 5.3 g of 2-(4-methylphenyl)-2-methyl-3-butanone, 6.0 g of 3-phenoxybenzaldehyde and 6.0 g of KOH, and the mixture was stirred at room temperature for one hour and 20 minutes. Then, the reaction mixture was poured into 300 ml of water and extracted with benzene. The benzene extract was washed with water and dried, and the solvent was evaporated under reduced pressure to give 10.4 g of crude 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-1-penten-3-one. Then, the crude product was purified by column chromatography on 250 g of silica gel (eluent:benzene) to give 6.8 g of pure 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-1-penten-3-one.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 2-(4-methylphenyl)-2-methyl-3-butanone | 5.3 g | CC1=CC=C(C=C1)C(C)(C(C)=O)C | C12H16O
reactant | 3-phenoxybenzaldehyde | 6.0 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | KOH | 6.0 g | [OH-].[K+]
solvent | water | 300 ml | O | H2O
product | 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-1-penten-3-one | 10.4 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=CC(C(C)(C)C1=CC=C(C=C1)C)=O | C25H24O2
